US05212159
S-(α,β-dicarboxyethyl)glutathione calcium
In 40 ml of water is dissolved 2 g of S-(α,β-dicarboxyethyl)glutathione followed by addition of 1 g of calcium carbonate. The mixture is stirred under warming. When the evolution of carbon dioxide gas has ceased, the excess of calcium carbonate is filtered off and the filtrate is concentrated under reduced pressure. To the concentrate is added ethanol and the resulting white crystals are collected by filtration and recrystallized from water-ethanol. Thus is obtained 2.2 g of the title compound as white powdery crystals.

reactant | S-(α,β-dicarboxyethyl)glutathione | 2 g | C(=O)(O)C(CC(=O)O)SC[C@H](NC(CC[C@H](N)C(=O)O)=O)C(=O)NCC(=O)O | C14H21N3O10S
reactant | calcium carbonate | 1 g | C([O-])([O-])=O.[Ca+2]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 40 ml | O | H2O
product | S-(α,β-dicarboxyethyl)glutathione calcium | 2.2 g | [Ca].C(=O)(O)C(CC(=O)O)SC[C@H](NC(CC[C@H](N)C(=O)O)=O)C(=O)NCC(=O)O | InChI=1S/C14H21N3O10S.Ca/c15-6(13(24)25)1-2-9(18)17-7(12(23)16-4-11(21)22)5-28-8(14(26)27)3-10(19)20;/h6-8H,1-5,15H2,(H,16,23)(H,17,18)(H,19,20)(H,21,22)(H,24,25)(H,26,27);/t6-,7-,8?;/m0./s1
